US07423030B2
32.1. 2-acetyl-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with N-methoxy-N-methylacetamide. It is used in crude form in the following reaction.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methoxy-N-methylacetamide | CON(C(C)=O)C | C4H9NO2
product | 2-acetyl-5-methoxybenzoic acid | C(C)(=O)C1=C(C(=O)O)C=C(C=C1)OC | C10H10O4
